US07338960B2
Ethyl 3-[4-hydroxy-2-(methyloxy)phenyl]propanoate
To a stirring solution of 3-[4-hydroxy-2-(methyloxy)phenyl]propanoic acid (229 mg, 1.17 mmol) in EtOH (14 mL) was added concentrated H2SO4 (0.031 mL, 0.58 mmol) and the reaction heated at reflux under nitrogen for 1 h. The mixture was then cooled to ambient temperature poured into ice (ca. 30 mL) and saturated aqueous Na2CO3 (60 mL) added. The mixture was then extracted with EtOAc (2×50 mL) and the combined organic layer washed with brine (70 mL) and concentrated under vacuum. The residue was then purified by SPE (silica, 5 g cartridge) eluting with cyclohexane:EtOAc (gradient 10:1 to 2:1) to afford the title compound (217 mg).

reactant | 3-[4-hydroxy-2-(methyloxy)phenyl]propanoic acid | 1.17 mmol, 229 mg | OC1=CC(=C(C=C1)CCC(=O)O)OC | C10H12O4
reactant | H2SO4 | 0.58 mmol, 0.031 mL | OS(=O)(=O)O | H2O4S
reactant | Na2CO3 | 60 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 14 mL | CCO | C2H6O
product | Ethyl 3-[4-hydroxy-2-(methyloxy)phenyl]propanoate | 217 mg | OC1=CC(=C(C=C1)CCC(=O)OCC)OC | C12H16O4
